US07365067B2
Ethyl 4-(methylamino)butanoate hydrochloride
2.00 g (13.0 mmol) of 4-(methylamino)butanoic acid hydrochloride was dissolved in 40 mL of ethanol and 69 μL (1.30 mmol) of concentrated sulfuric acid was added thereto, followed by stirring of the mixture at 90° C. for 1 hour. The solvent was distilled off under reduced pressure, followed by azeotropy with toluene. 3.02 g of the obtained residue was used for the subsequent reaction as such.

reactant | 4-(methylamino)butanoic acid hydrochloride | 13.0 mmol, 2.00 g | Cl.CNCCCC(=O)O
reactant | sulfuric acid | 1.30 mmol, 69 μL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 40 mL | C(C)O | C2H6O
product | Ethyl 4-(methylamino)butanoate hydrochloride | Cl.CNCCCC(=O)OCC | InChI=1S/C7H15NO2.ClH/c1-3-10-7(9)5-4-6-8-2;/h8H,3-6H2,1-2H3;1H
